* Subcircuit and_gate
.subckt and_gate a b out 

.param temp=27

.lib "../prelayout/sky130_fd_pr/models/sky130.lib.spice" tt
.global gnd

* /home/drako/applications/esim-2.1/library/subcircuitlibrary/and_gate/and_gate.cir

xm2  net-_m1-pad3_ a net-_m2-pad3_ net-_m2-pad3_ sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm3  net-_m2-pad3_ b gnd gnd sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm1  vdd a net-_m1-pad3_ vdd sky130_fd_pr__pfet_01v8 w=1u l=0.5u m=1u
xm4  vdd b net-_m1-pad3_ vdd sky130_fd_pr__pfet_01v8 w=1u l=0.5u m=1u
xm5  out net-_m1-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 w=1u l=0.5u m=1u
xm6  vdd net-_m1-pad3_ out vdd sky130_fd_pr__pfet_01v8 w=1u l=0.5u m=1u
vdd vdd gnd  dc 3.3
* Control Statements

.ends and_gate
